US06191166B1
Synthesis of 3,5-Difluorophenyl-α,α-difluoroacetic Acid
A solution of ethyl 3,5-difluorophenyl-α,α-difluoroacetate (from Example D24 below; 1 molar eq.) in 50% aqueous ethanol was treated with lithium hydroxide (1.5 molar eq.). The solution was stirred for 3 hours at ambient temperature then concentrated via rotary evaporation. The residue was taken up in water; a small amount of 1 N NaOH was added to make basic. The aqueous mixture was extracted with ether. The aqueous layer was acidified to pH 3 with 1 N HCl. The acid was extracted thrice with methylene chloride. The combined methylene chloride extracts were dried over Na2SO4, filtered, and concentrated.

reactant | ethyl 3,5-difluorophenyl-α,α-difluoroacetate | FC=1C=C(C=C(C1)F)C(C(=O)OCC)(F)F | C10H8F4O2
reactant | lithium hydroxide | 1.5 molar | [OH-].[Li+]
solvent | ethanol | C(C)O | C2H6O
product | 3,5-Difluorophenyl-α,α-difluoroacetic Acid | FC=1C=C(C=C(C1)F)C(C(=O)O)(F)F | C8H4F4O2
